US08034937B2
c) (RS)-1′-Benzyl-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidin]-7-yl acetate
To a solution of 1.0 g (3.4 mmol) 1′-benzyl-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidin]-7-one in 34 ml dichloromethane at −78° C. were added 6.8 ml (6.8 mmol) diisobutylaluminum hydride solution (1 M in n-hexane). After 45 min were subsequently added 0.80 ml (10 mmol) pyridine, a solution of 0.83 g (6.8 mmol) 4-N,N-dimethylaminopyridine in 2 ml dichloromethane and 1.9 ml (20 mmol) acetic anhydride. The reaction mixture was stirred at −78° C. for 14 h. The reaction was quenched with 34 ml aqueous saturated ammonium chloride solution and 26 ml 1 M aqueous sodium potassium tartrate solution and stirred for 30 min. Addition of saturated aqueous sodium hydrogen carbonate solution was followed by extraction with three portions of dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash-chromatography gave the title compound (0.8 g; 70%) as a light yellow solid.

reactant | 1′-benzyl-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidin]-7-one | 3.4 mmol, 1.0 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=NC=CC=C12)=O | C18H18N2O2
reactant | diisobutylaluminum hydride | 6.8 mmol, 1 M, 6.8 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | pyridine | 10 mmol, 0.80 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 20 mmol, 1.9 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 34 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (RS)-1′-Benzyl-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidin]-7-yl acetate | 0.8 g, 70% | C(C)(=O)OC1OC2(CCN(CC2)CC2=CC=CC=C2)C=2C1=NC=CC2 | C20H22N2O3
